US04273776
B. 2-Chloro-1-(2,4-dichlorophenyl)-3-(1H-imidazol-1-yl)-2-propen-1-one
10 g of 2-chloro-1-(2,4-dichlorophenyl)-3-hydroxy-2-propen-1-one (0.04 mol) are dissolved in 175 ml of dry benzene. While stirring, 13 g of carbonyl-bis-imidazole (0.08 mol) are added and the reaction mixture is refluxed shortly to get a clear solution. After standing for 24 hours the solvent is removed in vacuo, the residual product is treated with 150 ml of water, filtered off, washed again with water and dried in a desiccator over P2O5. Yield 11 g (91%), m.p. 149°-151°. Recrystallization from ethyl acetate elevates the melting point of the title compound to 150°-152°.

reactant | 2-chloro-1-(2,4-dichlorophenyl)-3-hydroxy-2-propen-1-one | 0.04 mol, 10 g | ClC(C(=O)C1=C(C=C(C=C1)Cl)Cl)=CO | C9H5Cl3O2
reactant | carbonyl-bis-imidazole | 0.08 mol, 13 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | benzene | 175 ml | C1=CC=CC=C1 | C6H6
product | 2-Chloro-1-(2,4-dichlorophenyl)-3-(1H-imidazol-1-yl)-2-propen-1-one | ClC(C(=O)C1=C(C=C(C=C1)Cl)Cl)=CN1C=NC=C1 | C12H7Cl3N2O
